US04048311
7-D-Mandelamido-3-[1-(2-sulfamoylethyl)tetrazol-5-ylthiomethyl]-3-cephem-4-carboxylic acid
To a solution of 1.26 g. (15 mmol.) of sodium bicarbonate in 75 ml. of acetone and 50 ml. of water at 5° was added 2.1 g. (5 mmol.) of 7-amino-3-[1-(2-sulfamoylethyl)tetrazol-5-ylthiomethyl]-3-cephem-4-carboxylic acid. The solution was cooled to -10° and a solution of 1.55 g. (5.5 mmol.) of D-O-dichloroacetylmandeloyl chloride in 25 ml. of acetone was added. The reaction mixture was stirred for 30 minutes in the cold while maintaining the pH at 7.2 by addition of aqueous sodium bicarbonate, then for 1.5 hours at 25°. The mixture was extracted with ether and the aqueous phase was brought to pH 9.3 with 5% sodium carbonate and stirred for 1.5 hours at 25°. The aqueous mixture was extracted with ether, the pH adjusted to 4.5 and the solution was again extracted with ether. The aqueous phase was acidified to pH 1.5 with dilute hydrochloric acid and it was extracted with ethyl acetate. Evaporation of the extract to dryness gave a solid which was suspended in ethyl acetate and filtered. The filtrate was diluted with ether and petroleum ether to precipitate the title compound.

reactant | sodium bicarbonate | 15 mmol | C([O-])(O)=O.[Na+]
reactant | acetone | CC(=O)C | C3H6O
reactant | water | O | H2O
reactant | 7-amino-3-[1-(2-sulfamoylethyl)tetrazol-5-ylthiomethyl]-3-cephem-4-carboxylic acid | 5 mmol | NC1[C@@H]2N(C(=C(CS2)C(CCS(N)(=O)=O)SC2=NN=NN2)C(=O)O)C1=O | C11H15N7O5S3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 7-D-Mandelamido-3-[1-(2-sulfamoylethyl)tetrazol-5-ylthiomethyl]-3-cephem-4-carboxylic acid | C([C@H](O)C1=CC=CC=C1)(=O)NC1[C@@H]2N(C(=C(CS2)C(CCS(N)(=O)=O)SC2=NN=NN2)C(=O)O)C1=O | C19H21N7O7S3
